US04547519
A suspension of 116 g (0.97 mole) β-nitropropanoic acid (CAS number 504-88-1) in chloroform (1 l) is stirred and treated with 127.5 g (1.07 mole) thionyl chloride. A rapid evolution of gas takes place and the mixture is stirred one hour at room temperature. Ethanol (50 g, 1.07 mole) is added dropwise followed by rapid gas evolution. The mixture is stirred 72 hours, concentrated and distilled to yield ethyl β-nitropropanoate, bp 95°-105° C. at 15 mm. A solution of 182 g (1.84 mole) ethyl acrylate [CAS number 140-88-5] in t-butanol (150 ml) and 10 ml of Triton B is treated at 40° C. with 135.5 g (0.92 mole) of ethyl β-nitropropanoate. Additional portions of Triton B (2 ml×3) and ethyl acrylate (25 g×3) are added over a five-hour period. The mixture is cooled and poured into a solution of 100 ml of concentrated hydrochloric acid in water (1 l). The diethyl-γ-nitro-γ-carboethoxymethylpimelate is extracted using dichloromethane (4×500 ml). The combined extracts are dried over anhydrous magnesium sulfate, filtered, and concentrated to yield an oil. The oil (160 g) is dissolved in ethanol (1.5 l) and treated with hydrogen in the presence of 7 g 20% Pd/C. The mixture is filtered through filter aid and concentrated to yield a mixture of 5-carboethoxyethyl-5carboethoxymethyl-2-pyrrolidinone (major product), 5-carboethoxymethyl-5-carboxyethyl-2-pyrrolidinone, and 5-carboethoxyethyl-5-carboxymethyl-2-pyrrolidinone as an oil. The oil dissolved in 1 l of 50% ethanol is titrated with a solution of 50% sodium hydroxide with stirring at reflux accompanied by removal of ethanol. The hydrolyzed mixture is neutralized with concentrated hydrochloric acid to yield 5-carboxyethyl-5-carboxymethyl-2-pyrrolidinone in water. The water is removed at reduced pressure and the resulting solid is added to acetic anhydride (1 kg) with stirring. The mixture is heated at 100° C. for 16 hours. The mixture is filtered through filter aid and concentrated at reduced pressure to yield tetrahydro-3,5-dioxo-1H-pyrrolizine-7a(5H)acetic acid anhydride with acetic acid as an oil. The oil is dissolved in a minimum amount of acetonitrile, an equivalent amount of water is added, and the mixture is stirred 16 hours. The mixture is concentrated at reduced pressure to yield a solid. The solid is recrystallized from acetonitrile to yield tetrahydro-3,5 -dioxo-1H-pyrrolizine-7a(5H)-acetic acid with a melting point of 177°-180° C.

reactant | β-nitropropanoic acid | 0.97 mole, 116 g | [N+](=O)([O-])CCC(=O)O | C3H5NO4
reactant | thionyl chloride | 1.07 mole, 127.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | Ethanol | 1.07 mole, 50 g | C(C)O | C2H6O
solvent | chloroform | 1 l | C(Cl)(Cl)Cl | CHCl3
product | ethyl β-nitropropanoate | [N+](=O)([O-])CCC(=O)OCC | C5H9NO4
